### PR TITLE
[Merged by Bors] - feat: `(-1) ^ m = (-1) ^ n`

### PR DESCRIPTION
**Pull request by urkud**
- add `neg_one_pow_congr`;
- prove a lemma about parity of `Fin.succAbove i j + Fin.predAbove j i`.

Backported (with adjusted API) from https://github.com/urkud/DeRhamCohomology

---

- [x] depends on: #24153

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Data/Fin/Parity.lean [hunk 1]
```diff
@@ -18,7 +18,17 @@ open Fin
 
 namespace Fin
 
-variable {n : ℕ} {k : Fin n}
+variable {n : ℕ}
```
Comment (urkud) [inline Mathlib/Data/Fin/Parity.lean:21]:
```suggestion
variable {n : ℕ} {k : Fin n}
```

File: Mathlib/Algebra/Ring/Parity.lean [hunk 2]
```diff
@@ -343,14 +343,22 @@ lemma iterate_eq_id (hf : Involutive f) (hne : f ≠ id) : f^[n] = id ↔ Even n
...
   | inl h => rw [h.neg_one_pow, if_pos h]
   | inr h => rw [h.neg_one_pow, if_neg (by simpa using h)]
 
-lemma neg_one_pow_eq_one_iff_even {R : Type*} [Monoid R] [HasDistribNeg R] {n : ℕ}
-    (h : (-1 : R) ≠ 1) : (-1 : R) ^ n = 1 ↔ Even n := by simp [neg_one_pow_eq_ite, h]
+lemma neg_one_pow_congr (h : Even m ↔ Even n) : (-1 : R) ^ m = (-1) ^ n := by
+  simp [h, neg_one_pow_eq_ite]
+
+lemma neg_one_pow_eq_one_iff_even (h : (-1 : R) ≠ 1) :
+    (-1 : R) ^ n = 1 ↔ Even n := by simp [neg_one_pow_eq_ite, h]
```
Comment (j-loreaux) [inline Mathlib/Algebra/Ring/Parity.lean:359]: Seems like you might as well add the `(-1 : R) ^ n = -1 ↔ Odd n` version too.

**Review by j-loreaux — APPROVED** [review]
bors d+

**Comment by urkud** [comment]
bors merge
